data/mechanism_extracts/OrgLett/10.1021_acs.orglett.1c03461_sup_1.json
{"doi": "10.1021_acs.orglett.1c03461_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical thiol-ene type hydrothiolation/coupling of styrenes with arylthiols mediated by PhB(OH)2 proceeding through thiyl radical addition to the alkene.", "mechanism_family": ["radical_anodic"], "electrochemical_role": "Anodic oxidation of arylthiolate/thiol to generate an aryl thiyl radical (ArS•) that adds to the styrene; PhB(OH)2 acts as a hydroxyl/proton shuttle generating a HO-B(Ph)(NMe2)-type byproduct.", "key_intermediates": [{"name": "aryl thiyl radical (ArS•, Ar = p-tolyl)", "smiles": "[S]c1ccc(C)cc1", "role": "reactive"}, {"name": "benzylic carbon radical from styrene + ArS• addition", "smiles": "[CH](c1ccccc1)CSc2ccc(C)cc2", "role": "transient"}, {"name": "TEMPO-trapped adduct 3n' (TEMPO-O-CH(Ph)-CH2-S-C6H4-Me)", "smiles": "CC1(C)CCCC(C)(C)N1OC(c1ccccc1)CSc2ccc(C)cc2", "role": "intermediate_trap"}, {"name": "byproduct IV: HO-B(Ph)(NMe2) (dimethylamino(hydroxy)phenylborane)", "smiles": "OB(c1ccccc1)N(C)C", "role": "off_pathway"}], "electron_flow": "At the anode, ArSH (or ArS-) is oxidized to a thiyl radical ArS•, which adds to the styrene to form a benzylic C-radical; in the productive cycle this radical is reduced/protonated to give the hydrothiolation product, while in the TEMPO probe experiment it is trapped as adduct 3n'. PhB(OH)2 mediates proton/hydroxyl transfer, ending up as the aminoborinic byproduct IV detected by MS.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3n suppressed (0% yield); TEMPO-trapped adduct 3n' (C24H33NOS, [M+H]+ calcd 384.2356, found 384.2367) detected by ESI-HRMS, confirming a benzylic C-radical intermediate after thiyl radical addition."}, {"name": "PhB(OH)2 (byproduct capture)", "smiles": "OB(O)c1ccccc1", "purpose": "intermediate_trap", "observation": "Putative byproduct IV (HO-B(Ph)NMe2, exact mass 149.1012; [M+H]+ 150.1085 found 150.1046) detected by EI-MS and ESI-HRMS, supporting involvement of the boronic acid as a hydroxyl/amine shuttle."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Only the radical/byproduct trapping portion of the SI was provided; full catalytic cycle and ordering of SET steps are inferred from the TEMPO suppression (radical pathway) and MS identification of the boron-containing byproduct IV. No KIE, CV, or DFT data shown on this page."}
